US05063228
4-(2-Chloroethyl)-3,4-dihydro-2-methylpyrimido[1,6-a]benzimidazol-1(2H)-one
A solution of 4 g (0.02 mol) of 2-(1-methyl-3-pyrrolidinyl)-1H-benzimidazole in 100 mL of CH2Cl2 was added dropwise to a solution of 12.5 (0.025 mol) of 20% phosgene/toluene in 30 mL of CH2Cl2. The solution was stirred for 2 h, and 10 g (0.1 mol) of triethylamine was added dropwise. Stirring was continued for 2 h and the solution was extracted with dilute NaOH. The organic layer was dried (Na2SO4) and concentrated. The residue was crystallized twice from isopropyl ether. Yield 1.5 g (28%), mp 88°-91° C.

reactant | 2-(1-methyl-3-pyrrolidinyl)-1H-benzimidazole | 0.02 mol, 4 g | CN1CC(CC1)C1=NC2=C(N1)C=CC=C2 | C12H15N3
reactant | phosgene toluene | C(=O)(Cl)Cl.C1(=CC=CC=C1)C
reactant | triethylamine | 0.1 mol, 10 g | C(C)N(CC)CC | C6H15N
reactant | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
reactant | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | 4-(2-Chloroethyl)-3,4-dihydro-2-methylpyrimido[1,6-a]benzimidazol-1(2H)-one | ClCCC1CN(C(N2C1=NC1=C2C=CC=C1)=O)C | C13H14ClN3O
